US07115666B2
N-tert-butyl-C-phenylmethyl nitrone (Compound 17)
To a mixture of phenyl-acetaldehyde (1.20 g, 10.00 mmol) and chloroform (50 ml) was added N-tert-butylhydroxylamine (1.07 g, 12.00 mmol) followed by 5 drops of conc. HCl. The mixture was stirred at rt for 18 h. The mixture was concentrated under vacuum to give an oil. The residue was purified by column chromatography (hexane:EtOAc=1:1) followed by EtOAc to give the title compound as a white solid: Yield: 80%, m.p. 143° C.: 1H NMR (CDCl3) δ 7.38 (m, 5H), 6.90 (s, 1H), 4.95 (dd, 2H), 1.25 (s, 9H).

reactant | phenyl-acetaldehyde | 10.00 mmol, 1.20 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | N-tert-butylhydroxylamine | 12.00 mmol, 1.07 g | C(C)(C)(C)NO | C4H11NO
catalyst | HCl | 5 drops | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-tert-butyl-C-phenylmethyl nitrone | Yield: 80% | C(C)(C)(C)[N+](=CCC1=CC=CC=C1)[O-] | C12H17NO
